Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Iodine Containing Agents Classifier / Uroxatral / Simvastatin / 
Zetia / Coreg / Celexa / Oxazepam / Lipitor / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Dizziness, Diaphoretic
 
Major Surgical or Invasive Procedure:
CABG x 2 Lima to LAD, SVG to OM
 
History of Present Illness:
___ year old male who originally
presented to ___ after doing yard work on ___ he
developed dizziness without chest pain.  He subsequently
developed diarrhea and diaphoresis and reports these symptoms
were similar to prior MI's. While at ___ troponins
increased to 0.435 and it was determined to transfer him to 
___
for a cardiac catheterization. Cath demonstrated 80& OM and 100% 
LAD.. Scheduled for surgery ___
 
Past Medical History:
Arthritis
BPH
GERD
Anxiety
Sleep Apnea (pt denies)
Spinal Stenosis (pt denies)
H/O ETOH (sober x ___ yrs)
Osteoarthritis
Kidney Stones
Hypertension
Hyperlipidemia
Diabetes
Coronary Artery Disease s/p Prior MI's and PCI's
 
Social History:
___
Family History:
Premature CAD Mother CABG x 4
 
Physical Exam:
Pulse:61 Resp:18  O2 sat:95/RA
B/P  Right: 129/66 
Height:5'3"   Weight:74.8 kg pre op (78.2kg at discharge)

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs decreased bibasilar bilaterally
Heart: RRR [x]  Irregular [] 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused []  Edema [] 1+ pedal edema
___ varicosities present
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: p   Left: p
DP           Right: p   Left: p
___           Right: p   Left: p
Radial       Right: p   Left: p

Carotid Bruit: None
 
Pertinent Results:
___ 04:20AM BLOOD WBC-9.4 RBC-3.33* Hgb-10.2* Hct-30.6* 
MCV-92 MCH-30.6 MCHC-33.3 RDW-12.8 RDWSD-42.6 Plt ___
___ 06:50AM BLOOD WBC-11.4* RBC-3.34* Hgb-10.1* Hct-30.7* 
MCV-92 MCH-30.2 MCHC-32.9 RDW-12.8 RDWSD-42.6 Plt ___
___ 06:00AM BLOOD WBC-6.9 RBC-4.46* Hgb-13.5* Hct-39.7* 
MCV-89 MCH-30.3 MCHC-34.0 RDW-12.3 RDWSD-39.8 Plt ___
___ 10:41AM BLOOD Neuts-77.1* Lymphs-15.9* Monos-4.5* 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-8.41*# AbsLymp-1.74 
AbsMono-0.49 AbsEos-0.14 AbsBaso-0.04
___ 04:20AM BLOOD Plt ___
___ 06:50AM BLOOD Plt ___
___ 04:20AM BLOOD Glucose-133* UreaN-23* Creat-1.0 Na-138 
K-4.3 Cl-100 HCO3-27 AnGap-15
___ 06:50AM BLOOD Glucose-149* UreaN-21* Creat-0.9 Na-134 
K-4.2 Cl-98 HCO3-26 AnGap-14
___ 06:00AM BLOOD UreaN-13 Creat-0.8 Na-137 K-4.1 Cl-101 
HCO3-26 AnGap-14
___ 06:00AM BLOOD ALT-13 AST-15 CK(CPK)-41* AlkPhos-62 
TotBili-0.5
___ 04:20AM BLOOD Mg-1.8
___ 06:01PM BLOOD Type-ART pO2-105 pCO2-40 pH-7.38 
calTCO2-25 Base XS-0

Pre-bypass

 The left atrium is mildly dilated. No spontaneous echo contrast 
or thrombus is seen in the body of the left atrium or left 
atrial appendage. No atrial septal defect is seen by 2D or color 
Doppler. There is mild symmetric left ventricular hypertrophy. 
The left ventricular cavity size is normal. There is mild 
regional left ventricular systolic dysfunction with inferior and 
inferolateral hypokinesis (EF 45-50%). Doppler parameters are 
most consistent with Grade I (mild) left ventricular diastolic 
dysfunction. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. There is an anterior space which 
most likely represents a prominent fat pad. 

ECHO ___
 Post-bypass

 The patient is in sinus rhythm and receiving an phenylephrine 
infusion.
 LV function is unchanged (EF 45-50%) with inferior and 
inferolateral hypokinesis. There are no new wall motion 
abnormalities.
 RV function remains preserved.
 MR, TR, and AI remain trivial.
 The thoracic aorta is intact following decannulation.

CXR ___

Comparison to ___.  The right internal jugular vein 
catheter has been 
removed.  The alignment of the sternal wires is constant.  
Constant moderate 
cardiomegaly.  Bilateral areas of atelectasis, caused by minimal 
bilateral 
pleural effusions that are better appreciated on the lateral 
than on the 
frontal radiograph.  No pneumothorax.  No pneumonia.  No 
pulmonary edema. 

 
Brief Hospital Course:
Pt was transferred ___ from ___ for NSTEMI and and to 
undergo cardiac cath. He was brought to the operating room on 
___ where he underwent a 2V CABG. Overall the patient tolerated 
the procedure well and post-operatively was transferred to the 
CVICU in stable condition for recovery and invasive monitoring. 
He remained on Neosynephrine for hypotension until ___. POD ___xtubated, alert and oriented and breathing 
comfortably. He remained neurologically intact and 
hemodynamically stable on no inotropic support. Beta blocker was 
initiated and the patient was gently diuresed toward his 
preoperative weight. He was transferred to the post cardiac 
surgery floor ___. Chest tubes and pacing wires were 
discontinued without complication. Pt had one three hour episode 
of Afib rate of 120's, pt aware of rapid heart rate but no 
hemodynamic compromise. Started on PO Amio and Lopressor. He was 
evaluated by the physical therapy services for assistance with 
strength and mobility. By POD 4 the patient was ambulating 
freely, his sternal wound was healing and pain was controlled 
with oral analgesics. He was discharged in good condition with 
appropriate follow up instructions. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. PARoxetine 5 mg PO DAILY 
8. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Amiodarone 200 mg PO DAILY Duration: 30 Days 
RX *amiodarone 200 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Furosemide 40 mg PO DAILY Duration: 5 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0 
4.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0 
5.  Milk of Magnesia 30 mL PO DAILY:PRN constipation  
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth q 4  hours Disp #*60 
Tablet Refills:*0 
7.  Potassium Chloride 10 mEq PO DAILY Duration: 5 Days 
Hold for K >4.5 
RX *potassium chloride 10 mEq 1 tablet(s) by mouth daily Disp 
#*5 Tablet Refills:*0 
8.  Losartan Potassium 50 mg PO DAILY  
9.  MetFORMIN XR (Glucophage XR) 750 mg PO BID  
10.  PARoxetine 5 mg PO QOD  
11.  Docusate Sodium 100 mg PO BID Duration: 30 Days 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
12.  Finasteride 5 mg PO DAILY  
13.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease
Non-ST Elevation Myocardial Infarction.

Anxiety
BPH
Diabetes Mellitus Type II
Gastroesophageal Reflux Disease
Hyperlipidemia
Hypertension
Myocardial Infraction, ___
Nephrolithiasis
Obstructive Sleep Apnea, not on CPAP
Osteoarthritis 
Spinal Stenosis

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema: +1 lower extremity

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___